US04937373
A solution of 0.227 g (1.5 mmol) of 3,6-dimethylveratrole in 1 mL of methylene chloride was added to an ice cooled mixture of 0.245 g (1.8 mmol) of aluminum chloride and 0.416 g (1.9 mmol) of 6-bromohexanoyl chloride in 3 mL of methylene chloride. The reaction mixture was kept at 0° for 19 hours. Water was added and the organic layer was separated and washed with sodium bicarbonate solution. The dried extract was concentrated to an oil which was chromatographed on 60 g of silica gel using 10% ethyl acetate-hexane to give 0.235 g of 6-bromo-1-(3,4-dimethoxy-2,5-dimethylphenyl)-1-hexanone as an oil. The nmr spectrum was consistent with the structure and the mass spectrum gave the molecular ion at m/z 342 (C16H23BrO3).

reactant | 3,6-dimethylveratrole | 1.5 mmol, 0.227 g | CC1=C(C(=C(C=C1)C)OC)OC | C10H14O2
reactant | aluminum chloride | 1.8 mmol, 0.245 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-bromohexanoyl chloride | 1.9 mmol, 0.416 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | Water | O | H2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-1-(3,4-dimethoxy-2,5-dimethylphenyl)-1-hexanone | 0.235 g | BrCCCCCC(=O)C1=C(C(=C(C(=C1)C)OC)OC)C | C16H23BrO3
